US06673799B1
4-(2-Ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile
A 0.65 g portion of 4-(4-benzyl-2-ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile synthesized in Reference Example 6-1 and 65 mg of 10% palladium-carbon were stirred in methanol at room temperature for 6 hours at atmospheric pressure in an atmosphere of hydrogen. The insoluble matter was removed by filtration through celite, the filtrate was concentrated under reduced pressure, the resulting residue was purified by a silica gel column chromatography, and 0.46 g of the title compound was obtained from chloroform-methanol-29% aqueous ammonia (10:1:0.1, v/v/v) eluate as a yellow oily substance.

reactant | 4-(4-benzyl-2-ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | C(C1=CC=CC=C1)N1CC(N(CC1)C1=CC(=C(C#N)C=C1)C(F)(F)F)CC | C21H22F3N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 65 mg | [C].[Pd]
product | 4-(2-Ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 0.46 g | C(C)C1N(CCNC1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
